US05939421
5-METHOXY-2-TRIFLUOROMETHYL-4H-3,1-BENZOXAZIN-4-ONE
A solution of 2-amino-6-methoxy benzoic acid (1.6 g, 9.6 mmol), trifluoroacetic anhydride (6.0 g, 29 mmol), and pyridine (2.3 g, 29 mmol) was stirred at room temperature for 0.5 h. The reaction mixture was diluted with EtOAc, washed with 1N HCl, saturated sodium bicarbonate, and brine. The organic layer was dried (Na2SO4), filtered and concentrated to give the title compound (1.5 g, 62%); m.p. 88-91° C.

reactant | 2-amino-6-methoxy benzoic acid | 9.6 mmol, 1.6 g | NC1=C(C(=O)O)C(=CC=C1)OC | C8H9NO3
reactant | trifluoroacetic anhydride | 29 mmol, 6.0 g | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | pyridine | 29 mmol, 2.3 g | N1=CC=CC=C1 | C5H5N
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 5-METHOXY-2-TRIFLUOROMETHYL-4H-3,1-BENZOXAZIN-4-ONE | 1.5 g, 62% | COC1=CC=CC2=C1C(OC(=N2)C(F)(F)F)=O | C10H6F3NO3
